US07902187B2
6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-8-fluorochroman-4-yl)-7H-purin-8(9H)-one.
To a round bottom flask containing (R)-2-(2-amino-5-fluorophenylamino)-6-chloro-9-(8-fluorochroman-4-yl)-7H-purin-8(9H)-one (0.65 mmol) was added anhydrous methanol (45 mL), followed by anhydrous trimethylorthoformate (5 mL) and methane sulfonic acid (0.1 mL) and the reaction mixture was stirred under Ar at room temperature until it was complete (HPLC monitoring). Preparative HPLC purification, after evaporation of solvent and drying, provided the desired product (184 mg, 62% yield on two steps), as a white solid. 1H NMR (300 MHz, CDCl3) δ, ppm: 9.38 (br s, 1H), 9.01 (s, 1H), 7.84-7.79 (m, 1H), 7.64-7.60 (m, 1H), 7.20-7.13 (m, 1H), 7.10-7.03 (m, 1H), 6.79-6.67 (m, 2H), 5.97-5.92 (m, 1H), 4.68-4.62 (m, 1H), 4.51-4.40 (m, 1H), 2.95-2.83 (m, 1H), 2.41-2.36 (m, 1H); MS (EI) m/z 454.9 (MH)+.

reactant | (R)-2-(2-amino-5-fluorophenylamino)-6-chloro-9-(8-fluorochroman-4-yl)-7H-purin-8(9H)-one | 0.65 mmol | NC1=C(C=C(C=C1)F)NC1=NC(=C2NC(N(C2=N1)[C@@H]1CCOC2=C(C=CC=C12)F)=O)Cl | C20H15ClF2N6O2
reactant | trimethylorthoformate | 5 mL | COC(OC)OC | C4H10O3
reactant | methane sulfonic acid | 0.1 mL | CS(=O)(=O)O | CH4O3S
solvent | methanol | 45 mL | CO | CH4O
product | 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-8-fluorochroman-4-yl)-7H-purin-8(9H)-one | 184 mg, 62% yield | ClC1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)F)[C@@H]2CCOC1=C(C=CC=C21)F)=O | C21H13ClF2N6O2
